US08372865B2
Tetra-tert-butyl ammonium bromide (6.77 g, 14.04 mmol) was added to a solution of 6-amino-4-methyl-4H-benzo[1,4]oxazin-3-one (2.5 g, 14.04 mmol) in methylene chloride (100 ml) and MeOH (50 ml). The mixture was stirred at room temperature for 20 minutes, then quenched with aqueous sodium bisulfite solution. The mixture was extracted with methylene chloride, and the combined organic extracts were dried over MgSO4, filtered, concentrated under reduced pressure and purified via column chromatography to give 1.30 g of 6-amino-7-bromo-4-methyl-4H-benzo[1,4]oxazin-3-one as a light yellow solid, 40%.

reactant | Tetra-tert-butyl ammonium bromide | 14.04 mmol, 6.77 g | [Br-].C(C)(C)(C)[N+](C(C)(C)C)(C(C)(C)C)C(C)(C)C
reactant | 6-amino-4-methyl-4H-benzo[1,4]oxazin-3-one | 14.04 mmol, 2.5 g | NC=1C=CC2=C(N(C(CO2)=O)C)C1 | C9H10N2O2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 50 ml | CO | CH4O
product | 6-amino-7-bromo-4-methyl-4H-benzo[1,4]oxazin-3-one | 1.30 g | NC=1C(=CC2=C(N(C(CO2)=O)C)C1)Br | C9H9BrN2O2
